US05281571
To a solution of 4.3 g (0.012 mole) 2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorobenzoic acid in 50 mL methylene chloride was added 3.1 mL (0.036 mole) oxalyl chloride causing the evolution of gas. When this evolution ceased, one drop of DMF was added and the solution stirred until the gas evolution ceased. The solution was concentrated in vacuo and the resultant residue dissolved in 25 mL isopropanol and heated to 60° C. for 1 hour. The solution was cooled, poured into 200 mL cold water and the solid filtered and dried. The product was recrystallized from ethanol/water to yield 1.69 g (70%) of 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid, 1-methylethyl ester as a white solid; mp 69° C.

reactant | 2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorobenzoic acid | 0.012 mole, 4.3 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O2
reactant | oxalyl chloride | 0.036 mole, 3.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzoic acid, 1-methylethyl ester | 1.69 g, 70% | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C15H12Cl2F4N2O2
